US04950674
α,α-Bis(4-fluorophenyl)-3-piperidinepropanenitrile
A mixture of α,α-bis(4-fluorophenyl)-1-[(4-methylphenyl)sulfonyl]-3-piperidinepropanenitrile (41.21 g, 0.0858 mole) and phenol (100 g, 1.06 mole) was heated at reflux for 2 hours. the reaction mixture was cooled to room temperature and made alkaline with ice and 50% sodium hydroxide. The aqueous layer was extracted with chloroform. The chloroform layer was back extracted with 5% sodium hydroxide. The organic layer was then dried over sodium sulfate and filtered and solvent was removed to give a dark brown oil. This oil was subjected to flash chromatography on silica gel using methanol for elution. Fractions of similar purity were combined and solvent removed. The oil obtained was dried in vacuo overnight at 80° C., to give 18.83 g (67.2% yield) of brown oil.

reactant | α,α-bis(4-fluorophenyl)-1-[(4-methylphenyl)sulfonyl]-3-piperidinepropanenitrile | 0.0858 mole, 41.21 g | FC1=CC=C(C=C1)C(C#N)(CC1CN(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)F | C27H26F2N2O2S
reactant | phenol | 1.06 mole, 100 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | α,α-Bis(4-fluorophenyl)-3-piperidinepropanenitrile | 18.83 g, 67.2% yield | FC1=CC=C(C=C1)C(C#N)(CC1CNCCC1)C1=CC=C(C=C1)F | C20H20F2N2
